US05288743
A solution of 4-methoxyaniline (75.0 g; 609 mmol) and 4-chlorobenzaldehyde (86.5 g; 615 mmol) in 1000 mL toluene was heated at reflux overnight with removal of water. The solvent was evaporated under reduced pressure, and the resulting light gray solid was taken up in 1500 mL tetrahydrofuran (THF). A solution of sodium cyanoborohydride (38.3 g; 609 mmol) in 180 mL methanol was added. Upon complete addition the reaction was acidified by the slow addition of acetic acid (36 mL). The reaction was stirred at ambient temperature overnight. The mixture was cooled to 0° C. and excess aqueous 6N HCl was added. The resultant precipitate was collected and washed well with diethyl ether to give N-(4-chlorobenzyl)-4-methoxyaniline hydrochloride salt as an off white solid.

reactant | 4-methoxyaniline | 609 mmol, 75.0 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | 4-chlorobenzaldehyde | 615 mmol, 86.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium cyanoborohydride | 609 mmol, 38.3 g | C(#N)[BH3-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 180 mL | CO | CH4O
solvent | acetic acid | 36 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(4-chlorobenzyl)-4-methoxyaniline hydrochloride salt | Cl.ClC1=CC=C(CNC2=CC=C(C=C2)OC)C=C1 | InChI=1S/C14H14ClNO.ClH/c1-17-14-8-6-13(7-9-14)16-10-11-2-4-12(15)5-3-11;/h2-9,16H,10H2,1H3;1H
